US07067532B2
4-nitro-fluorobenzene and 2-(carboxymethoxy)phenol were reacted together in DMA in the presence of potassium butoxide for 2 hours at 150° C. to yield 4-(2-carboxymethoxy-phenoxy)nitrobenzene.

reactant | 4-nitro-fluorobenzene | [N+](=O)([O-])C1=CC=C(C=C1)F | C6H4FNO2
reactant | 2-(carboxymethoxy)phenol | C(=O)(O)COC1=C(C=CC=C1)O | C8H8O4
reactant | potassium butoxide | [O-]CCCC.[K+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 4-(2-carboxymethoxy-phenoxy)nitrobenzene | C(=O)(O)COC1=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C14H11NO6
